US07417057B2
Step A Synthesis of 3-(3-Methylphenoxy)propan-1-ol as an Intermediate
A stirred solution of 25 grams (0.23 mole) of 3-methylphenol and 18.8 grams (0.20 mole) of 3-chloropropan-1-ol in 100 mL of aqueous 10% sodium hydroxide was heated at reflux for about 40 minutes. After this time, the reaction mixture was cooled to ambient temperature and extracted with three 100 mL portions of diethyl ether. The combined extracts were then washed with three 50 mL portions of an aqueous dilute sodium hydroxide solution and dried with sodium sulfate. The mixture was filtered and the filtrate was concentrated under reduced pressure, yielding 29 grams of subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 3-methylphenol | 0.23 mole, 25 grams | CC=1C=C(C=CC1)O | C7H8O
reactant | 3-chloropropan-1-ol | 0.20 mole, 18.8 grams | ClCCCO | C3H7ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-(3-Methylphenoxy)propan-1-ol | 29 grams | CC=1C=C(OCCCO)C=CC1 | C10H14O2
